US06919322B2
A mixture of diethyl 5-(3-aminophenyl)-2-furanphosphonate (1 mmol), NBS (0.9 mmol) and AIBN (0.1 mmol) in 30 mL of CCl4 was stirred at rt for 2 h. Extraction and chromatography provided diethyl 5-(4-bromo-3-aminophenyl)-2-furanphosphonate as an oil.

reactant | diethyl 5-(3-aminophenyl)-2-furanphosphonate | 1 mmol | NC=1C=C(C=CC1)C1=CC=C(O1)P(OCC)(=O)OCC | C14H18NO4P
reactant | NBS | 0.9 mmol | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.1 mmol | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | diethyl 5-(4-bromo-3-aminophenyl)-2-furanphosphonate | BrC1=C(C=C(C=C1)C1=CC=C(O1)P(OCC)(=O)OCC)N | C14H17BrNO4P
